US07709645B2
In a scintillation vial was combined 125 mg (0.224 mmol) of 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide, 2.0 mL dichloromethane, and 2.0 mL of a saturated aqueous solution of sodium bicarbonate. The vial was cooled to 0° C. in an ice bath and, under vigorous stirring, 601 μL (1.12 mmol) of a 20% phosgene in toluene solution was added. The reaction was stirred in the ice bath for 30 minutes and then stirred at room temperature for another 30 minutes. The layers were separated and organic layer was dried over sodium sulfate and concentrated to afford 3-fluoro-2-isocyanato-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide as a brown foam.

reactant | 2-amino-3-fluoro-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide | 0.224 mmol, 125 mg | NC1=C(C(=O)N(C)C)C=C(C=C1F)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C30H27FN4O4S
reactant | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-fluoro-2-isocyanato-5-[3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-N,N-dimethyl-benzamide | FC=1C(=C(C(=O)N(C)C)C=C(C1)C=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C)N=C=O | C31H25FN4O5S
